US06326369B1
2-(8-Acetoxyoctyl)-5,6-dimethoxyindan-4,7-dione
To a solution of 8-(4,5,6,7-tetramethoxyindan-2-yl)octyl acetate (1.25 g) in acetonitrile (13 ml) was dropwise added a solution of CAN (4.19 g) in water (13 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=10:1) and then with recrystallization from hexane-diethyl ether to yield the entitled compound (700 mg) as crystals.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octyl acetate | 1.25 g | C(C)(=O)OCCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C23H36O6
reactant | CAN | 4.19 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
solvent | water | 13 ml | O | H2O
product | 2-(8-Acetoxyoctyl)-5,6-dimethoxyindan-4,7-dione | 700 mg | C(C)(=O)OCCCCCCCCC1CC=2C(C(=C(C(C2C1)=O)OC)OC)=O | C21H30O6
